US07781478B2
A mixture of 1-[4-(3-cyano-1-cyclobutyl-6-hydroxy-1H-indol-2-yl)-phenyl]-3-isopropylsulfonylurea (0.085 g, 0.2 mmol), Cs2CO3 (0.163 g, 0.5 mmol), 2-chloropyrimidine (0.034 g, 0.3 mmol) in DMF (2.0 mL) was stirred at 70° C. overnight. After cooling to room temperature the mixture was poured into water (15 mL) and the precipitate collected via filtration, washed with water and purified on silica gel (CH2Cl2/EtOAc, 8.5:1.5) to provide 1-{4-[3-cyano-1-cyclobutyl-6-(pyrimidin-2-yloxy)-1H-indol-2-yl]-phenyl}-3-isopropylsulfonylurea (0.061 g, 61%).

reactant | 1-[4-(3-cyano-1-cyclobutyl-6-hydroxy-1H-indol-2-yl)-phenyl]-3-isopropylsulfonylurea | 0.2 mmol, 0.085 g | C(#N)C1=C(N(C2=CC(=CC=C12)O)C1CCC1)C1=CC=C(C=C1)NC(=O)NS(=O)(=O)C(C)C | C23H24N4O4S
reactant | Cs2CO3 | 0.5 mmol, 0.163 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-chloropyrimidine | 0.3 mmol, 0.034 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | water | 15 mL | O | H2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 1-{4-[3-cyano-1-cyclobutyl-6-(pyrimidin-2-yloxy)-1H-indol-2-yl]-phenyl}-3-isopropylsulfonylurea | 0.061 g, 61% | C(#N)C1=C(N(C2=CC(=CC=C12)OC1=NC=CC=N1)C1CCC1)C1=CC=C(C=C1)NC(=O)NS(=O)(=O)C(C)C | C27H26N6O4S
